US08003659B2
Step A: Synthesis of 4-(4-methoxybenzyloxy)-2,8-dichloro-7-methoxyquinoline AI.
Sodium hydride (2.74 g, 1.2 eq.) was added portionwise to a solution of p-methoxybenzyl alcohol (8.55 mL, 1.2 eq.) and 15-crown-5 (13.6 mL, 1.2 eq.) in 35 mL of DMF. The mixture was allowed to stir at room temperature for 30 min, and then added to a solution of 2,4,8-trichloro-7-methoxyquinoline (15 g, 1 eq.) in DMF (75 mL) via canula. After 18 hrs of stirring at room temperature, the mixture was poured on 500 mL of water and NH4Cl aqueous. Ethyl acetate (200 mL) was added and the precipitate was filtered. The filtrate was purified by chromatography on silica gel to yield compound AI in 56% yield. 1H NMR (CDCl3, 400 MHz) δ 3.85 (s, 3H), 4.05 (s, 3H), 5.19 (s, 2H), 6.77 (s, 1H), 6.97 (d, J=8.64 Hz, 2H), 7.23 (d, J=9.25 Hz, 1H), 7.41 (d, J=8.64 Hz, 2H), 8.08 (d, J=9.25 Hz, 1H); MS (ESI, EI+): m/z=386.1 (MNa+).

reactant | Sodium hydride | 2.74 g, 1.2 eq. | [H-].[Na+]
reactant | p-methoxybenzyl alcohol | 8.55 mL, 1.2 eq. | COC=1C=CC(=CC1)CO | C8H10O2
reactant | 15-crown-5 | 13.6 mL, 1.2 eq. | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2,4,8-trichloro-7-methoxyquinoline | 15 g, 1 eq. | ClC1=NC2=C(C(=CC=C2C(=C1)Cl)OC)Cl | C10H6Cl3NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 500 mL | O | H2O
product | 4-(4-methoxybenzyloxy)-2,8-dichloro-7-methoxyquinoline AI | 56% yield | COC1=CC=C(COC2=CC(NC3=C(C(=CC=C23)OC)Cl)(C=O)Cl)C=C1 | C19H17Cl2NO4
